US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-acetylphenyl)benzamide (200 mg) in methanol (15 ml) was added sodium borohydride (16.4 mg) and the solution was stirred at ambient temperature for 3 hours. Chloroform was added to the mixture and the solution was washed successively with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give a syrup and the crude product was purified by silica gel column (chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(1-hydroxyethyl)phenyl]-benzamide (150 mg) as a white solid.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-acetylphenyl)benzamide | 200 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(C)=O)C)C=C1 | C30H26N2O3
reactant | sodium borohydride | 16.4 mg | [BH4-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 15 ml | CO | CH4O
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(1-hydroxyethyl)phenyl]-benzamide | 150 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(C)O)C)C=C1 | C30H28N2O3
